US04940696
(b) 2-(1-adamantyl)-4-bromoanisole
To a suspension of sodium hydride (80% in oil, 4.32 g, 144 mmol) in 50 ml of THF, there are slowly added, while maintaining the temperature at 20° C., 36.8 g (120 mmol) of 2-(1-adamantyl)-4-bromophenol. The mixture is stirred for 1 hour at ambient temperature at which point 9 ml (144 mmol) of methyl iodide are added. The mixture is then stirred for 2 hours at 20° C., poured into water, extracted with ether, dried and evaporated. The product is purified by passage through a silica column (10×30 cm), eluting with a mixture of hexane (90%) and dichloromethane (10%). On evaporation, 26.2 g of a white solid are obtained. Yield - 68%. Melting point: 138°-139° C.

reactant | sodium hydride | 144 mmol, 4.32 g | [H-].[Na+]
reactant | 2-(1-adamantyl)-4-bromophenol | 120 mmol, 36.8 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)O | C16H19BrO
reactant | methyl iodide | 144 mmol, 9 ml | CI | CH3I
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(1-adamantyl)-4-bromoanisole | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)OC | C17H21BrO
